US07473694B2
Synthesis of tert-butyl[5-chloro-6-(3-oxopropyl)pyrazolo[1,5-a]pyrimidin-7-yl](4-ethoxyphenyl)carbamate
To a methylene chloride (1.7 mL) solution containing tert-butyl[5-chloro-6-(3-hydroxypropyl)pyrazolo[1,5-a]pyrimidin-7-yl](4-ethoxyphenyl)carbamate (155 mg, 0.346 mmol), Dess-Martin periodinane (152 mg, 0.381 mmol) was added with ice-cooling, and this mixture was stirred at room temperature for 16 hr. The reaction mixture was filtered through celite and the filtrate was concentrated. The residue was purified with column chromatography (10 to 20% ethyl acetate-hexane) to obtain the title compound (117 mg, yield 76%).

reactant | tert-butyl[5-chloro-6-(3-hydroxypropyl)pyrazolo[1,5-a]pyrimidin-7-yl](4-ethoxyphenyl)carbamate | 0.346 mmol, 155 mg | C(C)(C)(C)OC(N(C1=CC=C(C=C1)OCC)C1=C(C(=NC=2N1N=CC2)Cl)CCCO)=O | C22H27ClN4O4
reactant | Dess-Martin periodinane | 0.381 mmol, 152 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | methylene chloride | 1.7 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl[5-chloro-6-(3-oxopropyl)pyrazolo[1,5-a]pyrimidin-7-yl](4-ethoxyphenyl)carbamate | 117 mg, yield 76% | C(C)(C)(C)OC(N(C1=CC=C(C=C1)OCC)C1=C(C(=NC=2N1N=CC2)Cl)CCC=O)=O | C22H25ClN4O4
